US08791107B2
STEP B: 2-(2-methyl-1H-imidazol-1-yl)-5-(4-(methylsulfonyl)benzyl)-6a,7,9,10-tetrahydro-[1,4]oxazino[3,4-h]pteridin-6(5H)-one
A mixture of 4-(5-bromo-2-(2-methyl-1H-imidazol-1-yl)pyrimidin-4-yl)-N-(4-(methylsulfonyl)benzyl)morpholine-3-carboxamide (100 mg, 0.187 mmol), palladium(II) acetate (4.19 mg, 0.019 mmol), Xantphos (21.61 mg, 0.037 mmol), and potassium phosphate, tribasic (79 mg, 0.374 mmol) in 1,4-dioxane (1 mL) and tert-butanol 0.25 mL was heated to 100° C. in a microwave for 1 hour and then heated again to 100° C. in the microwave for 10 hours. Water was subsequently added to the reaction mixture, which formed a precipitate that was collected by filtration. The solids were washed with water and EtOAc to afford the title compound as an off-white solid (54.2 mg, 63.8%). 1H NMR (400 MHz, DMSO-d6) δ 2.63 (s, 3H), 3.02-3.13 (m, 1H), 3.21 (s, 3H), 3.53-3.64 (m, 1H), 3.71 (t, J=10.99 Hz, 1H), 3.98-4.06 (m, 1H), 4.26 (dd, J=11.24, 3.92 Hz, 1H), 4.37-4.45 (m, 1H), 4.65 (dd, J=10.61, 3.79 Hz, 1H), 5.17-5.37 (m, 2H), 6.83 (d, J=1.52 Hz, 1H), 7.59 (d, J=8.34 Hz, 2H), 7.73 (d, J=1.52 Hz, 1H), 7.84-7.94 (m, 3H). ESI-MS m/z [M+H]+ calc'd for C21H22N6O4S, 455.14. found 455.3.

reactant | 4-(5-bromo-2-(2-methyl-1H-imidazol-1-yl)pyrimidin-4-yl)-N-(4-(methylsulfonyl)benzyl)morpholine-3-carboxamide | 0.187 mmol, 100 mg | BrC=1C(=NC(=NC1)N1C(=NC=C1)C)N1C(COCC1)C(=O)NCC1=CC=C(C=C1)S(=O)(=O)C | C21H23BrN6O4S
reactant | Xantphos | 0.037 mmol, 21.61 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | potassium phosphate | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | tert-butanol | 0.25 mL | C(C)(C)(C)O | C4H10O
solvent | 1,4-dioxane | 1 mL | O1CCOCC1 | C4H8O2
catalyst | palladium(II) acetate | 0.019 mmol, 4.19 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | Water | O | H2O
product | 2-(2-methyl-1H-imidazol-1-yl)-5-(4-(methylsulfonyl)benzyl)-6a,7,9,10-tetrahydro-[1,4]oxazino[3,4-h]pteridin-6(5H)-one | 54.2 mg, 63.8% | CC=1N(C=CN1)C1=NC=2N3C(C(N(C2C=N1)CC1=CC=C(C=C1)S(=O)(=O)C)=O)COCC3 | C21H22N6O4S
